US07112680B2
1-(2-Pyridyl)-1-propanone-1-(1,3-benzoxazol-2-yl)-hydrazone (1a-13)
A mixture of 2-propionyl pyridine (0.60 g, 4.42 mmol) and 2-hydrazinobenzoxazole (0.60 g 4.02 mmol) in 25 ml of methanol is refluxed for 24 hours after the addition of 6 drops of glacial acetic acid. The reaction mixture is stored over night in the refrigerator at approximately 5° C. The precipitate is filtered and recrystallized from diisopropyl ether. Yield: 0.68 g (64% of theory).

reactant | 2-propionyl pyridine | 4.42 mmol, 0.60 g | C(CC)(=O)C1=NC=CC=C1 | C8H9NO
reactant | 2-hydrazinobenzoxazole | 4.02 mmol, 0.60 g | N(N)C=1OC2=C(N1)C=CC=C2 | C7H7N3O
solvent | methanol | 25 ml | CO | CH4O
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
product | 1-(2-Pyridyl)-1-propanone-1-(1,3-benzoxazol-2-yl)-hydrazone | O1C(=NC2=C1C=CC=C2)NN=C(CC)C2=NC=CC=C2 | C15H14N4O
